US06440417B1
In a 10 L reaction flask equipped with N2 inlet, 0.383 Kg of 6-aminocaproic acid (2.92 mol) was slowly added to 3.14 Kg of stirring thionyl chloride (26.28 mol). The maximum temperature during the addition is kept at about 30° C. Upon complete addition, the reaction was allowed to stir at 20-30° C. for 1 h, then concentrated via rotary evaporation (max 40° C. bath). Excess thionyl chloride was chased-off by the addition of toluene (0.843 Kg) and the solution was re-concentrated via rotary evaporation (max 40° C. bath). To the resulting tan solid a suspension of 0.537 Kg of sodium bicarbonate (6.42 mol) was added in 2.97 Kg of t-BuOH (40.3 mol) and reaction allowed to stir at 20-30° C. for 2 h. The excess t-BuOH was removed in vacuo (max 40° C. bath) and residue diluted with 5.17 Kg of ethyl acetate and washed with four portions of 1M NaOH (0.307 Kg in 7.68 Kg water), three portions of H2O (1.92 Kg), one portion of sat. aq. NaCl (0.767 Kg in 1.92 Kg water), dried with anhydrous Na2SO4 (0.383 Kg), filtered via Buchner funnel, rinced with ethyl acetate (1.72 Kg), and concentrated in vacuo (max 50° C. bath). The tan liquid residue was distilled (bp 97-98° C./2 mmHg) to afford 0.290 Kg of t-butyl-6-aminocaproate (53% yld) as a clear colourless to light yellow oil.

reactant | 6-aminocaproic acid | 2.92 mol, 0.383 Kg | NCCCCCC(=O)O | C6H13NO2
reactant | thionyl chloride | 26.28 mol, 3.14 Kg | S(=O)(Cl)Cl | Cl2OS
reactant | sodium bicarbonate | 6.42 mol, 0.537 Kg | C([O-])(O)=O.[Na+]
reactant | t-BuOH | 40.3 mol, 2.97 Kg | CC(C)(C)O | C4H10O
product | t-butyl-6-aminocaproate | 0.290 Kg, 53% | C(C)(C)(C)OC(CCCCCN)=O | C10H21NO2
